US05571775
21. Preparation of 2-Benzylthio-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine
8-Amino-2-benzylthio-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine (25.8 g, 0.079 mol), t-butyl nitrite (18.9 mL, 16.4 g, 0.158 mol) and tetrahydrofuran (1.5 L) were combined and heated at reflux with stirring. Gas evolution began immediately and stopped after a few minutes, but the reaction was heated at reflux for an hour. The volatiles were removed by evaporation under reduced pressure and the residue obtained was chromatographed on silica gel eluting with dichloromethane. The product fractions were concentrated by evaporation under reduced pressure and the residue obtained was mixed with ether. The insoluble solid material was collected by filtration. The ether filtrate was concentrated by evaporation under reduced pressure and the residue was rechromatographed on silica gel eluting with 10 percent ethyl acetate in hexane. The product fractions were concentrated by evaporation under reduced pressure and the residue obtained was combined with the insoluble solid material obtained before to obtain 12.2 g (50 percent of theory) of the title compound as a red-brown powder melting at 88°-89° C.

reactant | 8-Amino-2-benzylthio-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine | 0.079 mol, 25.8 g | NC=1C=2N(C(=CC1Cl)Cl)N=C(N2)SCC2=CC=CC=C2 | C13H10Cl2N4S
reactant | t-butyl nitrite | 0.158 mol, 18.9 mL, 16.4 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-Benzylthio-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine | C(C1=CC=CC=C1)SC1=NN2C(C=C(C=C2Cl)Cl)=N1 | C13H9Cl2N3S
